US09216980B2
Preparation of 2-(4-Bromobenzyl)-2-aza-bicyclo[2.2.1]heptane
A stirred solution of 4-bromobenzyl bromide (66 mg, 0.26 mmol), triethylamine (0.22 mL, 1.56 mmol) and 2-azabicyclo[2.2.1]heptane (71 mg, 0.52 mmol) in THF (10 mL) was heated under reflux for 5 h. The reaction mixture was cooled to ambient temperature, the solid removed by filtration and the filtrate concentrated under reduced pressure to afford the title compound (70 mg, quantitative yield) that was used in the next step without further purification. LCMS (Method B): RT=2.04 min, M+H+=266/268.

reactant | 4-bromobenzyl bromide | 0.26 mmol, 66 mg | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | triethylamine | 1.56 mmol, 0.22 mL | C(C)N(CC)CC | C6H15N
reactant | 2-azabicyclo[2.2.1]heptane | 0.52 mmol, 71 mg | C12NCC(CC1)C2 | C6H11N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(4-Bromobenzyl)-2-aza-bicyclo[2.2.1]heptane | 70 mg, quantitative yield | BrC1=CC=C(CN2C3CCC(C2)C3)C=C1 | C13H16BrN
